US06720427B2
A solution of 1-(2-amino-thiazol-5-yl)cyclobutanol (Preparation 1; 6.6 g, 39 mmol) in trifluoroacetic acid (150 mL) was treated with 20% palladium hydroxide on carbon (2.3 g). The mixture was evacuated and purged with nitrogen (3 times), then was evacuated and purged with hydrogen gas (50 psi). The mixture was shaken for 24 hours and was evacuated and purged with nitrogen. The mixture was then filtered through Celite which was rinsed with methanol. The organic solvent was removed in vacuo, ethylacetate was added, followed by 29% ammonium hydroxide solution. The aqueous and organic layers were separated and the aqueous layer was extracted with ethylacetate. The combined organic layers were washed with brine, were dried (MgSO4), were filtered, and the solvent was removed in vacuo. The resulting residue was purified by silica gel chromatography (40:1:1 CHCl3—MeOH—NH4OH) to afford 4.75 g of 5-cyclobutyl-thiazol-2-ylamine, the title compound. 1HNMR (400 MHz, DMSO-d6): 6.66(s,2H), 6.57(s, 2H), 3.43 (m,1H), 2.20 (m,2H), 1.98-1.7 (m,4H).

reactant | 1-(2-amino-thiazol-5-yl)cyclobutanol | 39 mmol, 6.6 g | NC=1SC(=CN1)C1(CCC1)O | C7H10N2OS
solvent | trifluoroacetic acid | 150 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | palladium hydroxide on carbon | 2.3 g | [OH-].[OH-].[Pd+2]
product | 5-cyclobutyl-thiazol-2-ylamine | 4.75 g | C1(CCC1)C1=CN=C(S1)N | C7H10N2S
